US06579868B1
1) 4-[6-Amino-8-(3-fluorophenyl)-2-iodo-9H-9-purinyl]butanoic Acid
To 1.50 g of 4-[6-amino-8-(3-fluorophenyl)-2-iodo-9H-9-purinyl]butanol were added 30 ml of chloroform, 30 ml of acetonitrile, 45 ml of water, 73 mg of ruthenium tetraoxide hydrate and 4.10 g of sodium periodate and the mixture was vigorously stirred in a nitrogen stream for 5 hours at room temperature. The reaction was stopped by 2-propanol and the insoluble matters were filtered off followed by washing with 1000 ml of chloroform-methanol (1:1). The filtrate was concentrated, the residue was suspended in water, and the suspension was adjusted to pH 2-3 with 1N hydrochloric acid and the crystals were collected by filtration. The crystals were washed with water and ether to give 1.41 g of the title compound. The yield was 91%.

reactant | 4-[6-amino-8-(3-fluorophenyl)-2-iodo-9H-9-purinyl]butanol | 1.50 g | NC1=C2N=C(N(C2=NC(=N1)I)CCCCO)C1=CC(=CC=C1)F | C15H15FIN5O
reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
reactant | sodium periodate | 4.10 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | ruthenium tetraoxide hydrate | 73 mg | O.[Ru](=O)(=O)(=O)=O
solvent | 2-propanol | CC(C)O | C3H8O
solvent | water | 45 ml | O | H2O
product | 4-[6-Amino-8-(3-fluorophenyl)-2-iodo-9H-9-purinyl]butanoic Acid | 1.41 g, yield was 91% | NC1=C2N=C(N(C2=NC(=N1)I)CCCC(=O)O)C1=CC(=CC=C1)F | C15H13FIN5O2
